US05461062
To a solution of 2.00 g of 3-nitro-7,8-dihydro-5H-pyrano[4,3-b]pyridine [prepared according to the method as described in Bull. Chem. Soc. Jpn. Vol. 63 (1990), 2820] in 40 ml of methylene chloride is added 2.63 g of m-chloroperbenzoic acid, and the resultant mixture is stirred overnight. The reaction mixture is washed with aqueous potassium carbonate, dried over anhydrous magnesium sulfate and the solvent is evaporated. The crude product is recrystallized from ethanol-chloroform to give 1.82 g of 3-nitro-7,8-dihydro-5H-pyrano[4,3-b]pyridine-1-oxide as colorless crystals. Yield: 84%. To a solution of 1.47 g of the product in 75 ml of methanol-dimethylformamide (1:1) is added 100 mg of 10% palladium carbon, and the resultant mixture is hydrogenated at ordinary temperature under atmospheric pressure. After the reduction is completed in about 3 hours, the catalyst is filtered off. The resultant crude crystals are washed with ethanol to give 1.08 g of 3-amino-1-oxide as colorless crystals. Yield: 86%. To a solution of 690 mg of 3-isoxazolylcarbonyl chloride in 20 ml of dimethylformamide is added 414 mg of pyridine under ice cooling, and then 830 mg of 3-amino-1-oxide as crystals is added. The resultant mixture is stirred under ice cooling for 30 minutes and at room temperature for 1 hour, chilled again with ice, and mixed with 4 ml of water. The suspension is neutralized with sodium bicarbonate. The precipitated solid is filtered, washed with water and ethanol in this order and dried to give 1.13 g of the titled compound as colorless crystals. Yield: 86%. ml.: 260° to 265° C. (dec.)

reactant | 3-nitro-7,8-dihydro-5H-pyrano[4,3-b]pyridine | 2.00 g | [N+](=O)([O-])C=1C=C2C(=NC1)CCOC2 | C8H8N2O3
reactant | m-chloroperbenzoic acid | 2.63 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-nitro-7,8-dihydro-5H-pyrano[4,3-b]pyridine-1-oxide | 1.82 g, Yield: 84% | [N+](=O)([O-])C=1C=C2C(=[N+](C1)[O-])CCOC2 | C8H8N2O4
